US07696223B2
a) 1-(3-Fluoro-benzyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester
Prepared in analogy to that of Example 5(a) from 2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester and 3-fluorobenzyl bromide. The title compound, ESI MS (m/z): 262 (M+H)+.

reactant | 2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(NC=C1)C | C8H11NO2
reactant | 3-fluorobenzyl bromide | FC=1C=C(CBr)C=CC1 | C7H6BrF
product | 1-(3-Fluoro-benzyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C=C1)CC1=CC(=CC=C1)F)C | C15H16FNO2
